US07638515B2
4-(3-Fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-trimethylsilyloxy-pentan-1-ol
5.24 g (12.34 mmol) of 4-(3-fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethyl-2-trimethylsilyloxy-pentanoic acid ethyl ester is dissolved in 45 ml of diethyl ether and mixed at 0 to 5° C. in portions with 936.9 mg (24.69 mmol) of LiAlH4. After four and one-half hours of stirring at room temperature, the reaction mixture is carefully mixed with saturated NaHCO3 while being stirred in an ice bath, stirred for one hour under cold conditions and overnight at room temperature. After the conventional working-up, 4.11 g (87.1%) of a mixture that consists of the desired compound and the compound is obtained, in which the silyl ether has migrated. The mixture is incorporated in crude form into the next stage.

reactant | 4-(3-fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethyl-2-trimethylsilyloxy-pentanoic acid ethyl ester | 12.34 mmol, 5.24 g | C(C)OC(C(CC(C)(C)C1=C(C(=CC=C1)F)OC)(O[Si](C)(C)C)C(F)(F)F)=O | C19H28F4O4Si
reactant | LiAlH4 | 24.69 mmol, 936.9 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | 45 ml | C(C)OCC | C4H10O
product | 4-(3-Fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-trimethylsilyloxy-pentan-1-ol | FC=1C(=C(C=CC1)C(CC(CO)(O[Si](C)(C)C)C(F)(F)F)(C)C)OC | C17H26F4O3Si
